US07754737B2
Step 2. Ethyl 3-(hydroxy(phenyl)methyl)benzoate
To a solution of ethyl 3-benzoylbenzoate (1.0197 g, 4.0 mmol, 1.0 equiv) in ethanol (10 mL) was added of NaBH4 (0.32 g, 2.1 equiv). The reaction mixture was stirred at rt for 1.5 h, quenched with 10% aq Na2CO3, extracted three times with CH2Cl2, and dried over Na2SO4. The crude product was used in the next step without further purification. LC-MS (3 min) tR=1.64 min, m/z 239 (M+—OH). 1H NMR (400 MHz, CDCl3) δ 8.09 (m, 1H), 7.93-7.96 (m, 1H), 7.56-7.59 (m, 1H), 7.26-7.43 (m, 6H), 5.89 (s, 1H), 4.36 (q, J=7.2 Hz, 2H), 2.38 (br s, 1H), 1.40 (t, J=7.2 Hz, 3H).

reactant | ethyl 3-benzoylbenzoate | 4.0 mmol, 1.0197 g, 1.0 equiv | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)OCC)C=CC1 | C16H14O3
reactant | NaBH4 | 0.32 g, 2.1 equiv | [BH4-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Ethyl 3-(hydroxy(phenyl)methyl)benzoate | OC(C=1C=C(C(=O)OCC)C=CC1)C1=CC=CC=C1 | C16H16O3
